data/mechanisms/records/IMS8-EQ8.16a.json
{"mechanism_id": "IMS8-EQ8.16a", "species": [{"species_id": "beta_hydroxy_ketone_molecular_ion_O_ionized", "mapped_smiles": "[CH3:3][C:1](=[O+:2])[CH2:4][CH:5]([O:6][1H:8])[CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "enol_radical_cation_O_localized", "mapped_smiles": "[CH3:3][C:1](=[CH2:4])[O+:2][1H:8]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acetaldehyde_keto_neutral", "mapped_smiles": "[O:6]=[CH:5][CH3:7]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["beta_hydroxy_ketone_molecular_ion_O_ionized"]}, {"state_id": "state_products", "species_ids": ["enol_radical_cation_O_localized", "acetaldehyde_keto_neutral"]}], "steps": [{"step_id": "step_rH_hydroxyl_H_rearrangement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [6, 8]}, "target": {"type": "bond", "atom_maps": [2, 8]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 4]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH_hydroxyl", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_hydroxyl_H_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 149, "equation": "8.16", "figure": null, "panel": null, "section": "8.2 Product stability (Neutral-product stability)"}, "confidence": 0.75, "curator_note": "Eq 8.16, p.149. GENERIC scheme (leaving group R undefined; no m/z or % printed). The precursor is a beta-hydroxy ketone drawn as its molecular ion n-ionized at the carbonyl oxygen: the book prints '+.' on the carbonyl O and draws the enol product ion with '+.' ON THE OXYGEN ('H-O+.'), so charge and odd electron are localized on that O throughout and the SMILES carries O+ with one radical electron in both precursor (=[O+:2]) and enol ion ([O+:2] two-coordinate) (conventions B, C). This record is branch (a): rearrangement of the HYDROXYL H (the favored path per the text -- 'the keto-product stability in Equation 8.16 favors rearrangement of the hydroxyl-H'), which yields the more stable KETO neutral acetaldehyde (CH3CH=O, dHf -1.7 eV printed under it). A six-membered transition state [O2=C1-C4-C5-O6-H8] delivers the O-H hydrogen (map 8) to the carbonyl O, the Calpha-Cbeta bond (C4-C5) cleaves, and the freed carbinol oxygen (O6) closes to the aldehyde C5=O6. ARC COUNT: the book draws 0 electron arc(s) -- the rearrangement is denoted only by the 'rH' label over the reaction arrow and by the drawn six-membered TS geometry; NO curved arrows/fishhooks are printed. The three moves encoded here are the complete balanced electron flow implied by 'rH', written as a concerted 6-electron retro-ene: move <1> O6-H8 sigma -> forming O2-H8 bond; move <2> C1=O2 pi -> forming enol C1=C4 pi; move <3> C4-C5 sigma -> forming aldehyde C5=O6 pi. In this O-localized resonance form the +. radical is a spectator on O2 (no per-atom radical change), matching the '+.' the book draws on the enol oxygen; the same reaction can also be drawn stepwise with fishhooks and a migrating radical. dHf values printed (-1.7 eV keto / -1.3 eV enol) are neutral-product thermochemistry, NOT m/z or intensity. Instantiated R = CH3 (4-hydroxypentan-2-one, M+. = C5H10O2, m/z 102.0675) so every atom is concrete; the enol ion is CH3-C(O+.H)=CH2 (C3H6O+., computed m/z 58.0413) -- a curator instantiation value, not a book-printed number."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 102.0675, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_enol_ion", "species_id": "enol_radical_cation_O_localized", "step_id": "step_rH_hydroxyl_H_rearrangement", "observed_mz": 58.0413, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
